US04369309
1-[(3,4-Dihydro-2H(1,3)-thiazino[3,2-a]benzimidazole-2-yl)methyl]-4-(3,4,5-trimethoxycinnamoyl)piperazine:
To 20 ml of chloroform was dissolved 1.0 g (3.5 m mole) of 3,4-dihydro-2-piperazinomethyl-2H-(1,3)-thiazine[3,2-a[benzimidazole, followed by the dropwise addition of 1 g of 3,4,5-trimethoxycinnamoyl chloride in 10 ml of chloroform under ice-cooled stirring conditions. After ten minutes, 0.5 ml of triethylamine was added. The mixture was stirred for 3 hours at room temperature. After the completion of the reaction, the reaction mixture was added with water and extracted with chloroform. The chloroform layer was washed with water and then dried over anhydrous magnesium sulfate. Chloroform was evaporated under reduced pressure and the residue was chromatographed on silica gel and eluted with chloroform to obtain 1.2 g (Yield: 69.4%) of the intended product, m.p. 211°-212° C.;

reactant | 3,4-dihydro-2-piperazinomethyl-2H-(1,3)-thiazine | 1.0 g | N1(CCNCC1)CC1SC=CCN1 | C9H17N3S
reactant | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | 3,4,5-trimethoxycinnamoyl chloride | 1 g | COC=1C=C(C=CC(=O)Cl)C=C(C1OC)OC | C12H13ClO4
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 1-[(3,4-Dihydro-2H(1,3)-thiazino[3,2-a]benzimidazole-2-yl)methyl]-4-(3,4,5-trimethoxycinnamoyl)piperazine | 1.2 g, Yield: 69.4% | S1C(CCN2C1=NC1=C2C=CC=C1)CN1CCN(CC1)C(C=CC1=CC(=C(C(=C1)OC)OC)OC)=O | C27H32N4O4S
